data/oMe_Silver.jsonl
{"reaction_id": "NR-145_1-C(F)(F)F_2-c1ccccc1_3-C(F)(F)F","name": "Michaelis-Arbuzov Reaction","level": "medium","reactants_smiles": ["[CH](Br)(C(F)(F)F)(c1ccccc1)","P(OC(F)(F)F)(OC(F)(F)F)(OC(F)(F)F)"],"products_smiles": ["P(=O)(OC(F)(F)F)(OC(F)(F)F)[CH](C(F)(F)F)(c1ccccc1)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](OC(F)(F)F)(OC(F)(F)F)(OC(F)(F)F)[CH](C(F)(F)F)(c1ccccc1).[Br-]","rationale": "The lone pair on phosphorus attacks the electrophilic carbon bearing bromine, favored by the polarizable P center and the good leaving group ability of bromide, forming a phosphonium salt intermediate."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "P(=O)(OC(F)(F)F)(OC(F)(F)F)[CH](C(F)(F)F)(c1ccccc1)","rationale": "Intramolecular rearrangement occurs as an alkyl group migrates from oxygen to phosphorus, driven by the thermodynamically favorable formation of the strong P=O bond and facilitated by bromide acting as a leaving group."}],"description": "In the Michaelis–Arbuzov reaction, trialkyl phosphite attacks an alkyl halide via nucleophilic substitution, forming a phosphonium salt. This intermediate undergoes rearrangement with halide displacement to yield the phosphonate ester, driven by strong P=O bond formation and good leaving group ability of halide."}
{"reaction_id": "NR-222_1-C_2-c1ccc(Cl)cc1_3-c1c(OC)cccc1_4-C","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(C)(C(O)(C)C(c1ccc(Cl)cc1)(c1c(OC)cccc1)C)C(c1ccc(Cl)cc1)(c1c(OC)cccc1)C"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](C)O[Mg]O[CH]C(C)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C(C)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
{"reaction_id": "NR-034_1-CC#C_2-C1CC1_3-Br_4-c1ccccc1","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(CC#C)(C1CC1)(O)C(Br)(c1ccccc1)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(CC#C)(C1CC1)=C(Br)(c1ccccc1)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(CC#C)(C1CC1)C(Br)(c1ccccc1))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(CC#C)(C1CC1)C(Br)(c1ccccc1)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC#C)(C1CC1)=C(Br)(c1ccccc1)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
